US04183924
D. 17α-Methylthio-1,4-Androstadiene-3,11-Dione
To 6.9 gm. of sodium metal dissolved in 225 ml. of ethanol is added 30 ml. of methylmercaptan followed by 10 gm. of 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione. Heat at reflux for 18 hours. Cool the solution to 0° C., filter solids and crystallize from chloroform/hexane to obtain the title compound; m.p. 180°-183° C.; [α]D26 +101.6° (DMF).

reactant | sodium | [Na] | Na
reactant | methylmercaptan | CS | CH4S
reactant | 17β-methanesulfonyloxy-1,4-androstadiene-3,11-dione | CS(=O)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C20H26O5S
solvent | ethanol | C(C)O | C2H6O
product | 17α-Methylthio-1,4-Androstadiene-3,11-Dione | CS[C@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1C(C2)=O)=O | C20H26O2S
